US05580863
A mixture of 2-(4-nitrobenzyl)-1,3,2-dioxaphospholane-2-oxide (8.56 g), palladium-carbon (5%, 50% wet, 4.0 g) and methanol (300 ml) was subjected to a catalytic hydrogenation at room temperature and under 1 atm. After the catalyst was filtered off, the flitrate was concentrated under reduced pressure to yield 2-(4-aminobenzyl)-1,3,2-dioxaphospholane-2-oxide (4.25 g, 57%), which was then recrystallized from ethanol-hexane to yield colorless prisms having a melting point of 183° to 184° C.

reactant | 2-(4-nitrobenzyl)-1,3,2-dioxaphospholane-2-oxide | 8.56 g | [N+](=O)([O-])C1=CC=C(CP2(OCCO2)=O)C=C1 | C9H10NO5P
catalyst | palladium-carbon | 4.0 g | [C].[Pd]
solvent | methanol | 300 ml | CO | CH4O
product | 2-(4-aminobenzyl)-1,3,2-dioxaphospholane-2-oxide | 4.25 g, 57% | NC1=CC=C(CP2(OCCO2)=O)C=C1 | C9H12NO3P
